US04097532
PREPARATION OF 3-METHOXY-4-HEPTANONE
A solution of 1.5 grams of 3-chloro-4-heptanone in 3 ml anhydrous methanol (0.01 moles 3-chloro-4-heptanone) is placed into a 25 ml, three-necked, round bottom flask equipped with magnetic stirrer, pot thermometer, reflux condenser (with drying tube), 10 ml addition funnel with nitrogen inlet at top an ice water-salt bath, and nitrogen bubbler. The 3-chloro-4-heptanone solution is cooled to a temperature of between 0 and 1° C. Into the 10 ml addition funnel is placed a solution of 0.54 grams of sodium methoxide dissolved in 7 ml anhydrous methanol (0.01 moles sodium methoxide). Over a period of one hour, while maintaining the reaction mass at a temperature of between 0° and 1° C, the sodium methoxide solution is added to the 3-chloro-4-heptanone. The reaction mass is then permitted to warm up to room temperature. It is then vacuum filtered thereby separating the white precipitate from the filtrate. The white solid precipitate is washed with 25 ml methylene chloride, and the washings are combined with the filtrate prior to concentration. After concentration of the filtrate, the concentrate is dried over anhydrous sodium sulfate and further concentrated to a weight of 1.0 grams (white oil). The major peak is isolated by GLC trapping (8' × 1/4 inch SE-30 column). NMR, IR and mass spectral analyses confirm

reactant | 3-chloro-4-heptanone | 1.5 grams | ClC(CC)C(CCC)=O | C7H13ClO
reactant | methanol | 0.01 moles, 3 ml | CO | CH4O
reactant | methanol | 0.01 moles, 7 ml | CO | CH4O
reactant | sodium methoxide | C[O-].[Na+]
product | 3-METHOXY-4-HEPTANONE | COC(CC)C(CCC)=O | C8H16O2
